US06211215B1
In substantially the same manner as in Working Example 1, 4-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]butanol was allowed to react with 1,2,4-triazole to give 1-[4-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]butyl]-1,2,4-triazole. The yield was 71%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 94-95° C.

reactant | 4-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]butanol | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCO | C22H23NO3
reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
product | 1-[4-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]butyl]-1,2,4-triazole | yield was 71% | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1N=CN=C1 | C24H24N4O2
